US07786165B2
[6-(benzyloxy)-4′-(2-ethoxyethoxy)biphenyl-3-yl]methanol
To a solution (40 mL) of methyl 6-(benzyloxy)-4′-(2-ethoxyethoxy)biphenyl-3-carboxylate (2.0 g, 4.92 mmol) in anhydrous tetrahydrofuran was added lithium aluminum hydride (0.19 g, 5.01 mmol) under ice-cooling, and the mixture was stirred at room temperature for 3 hr. The reaction solution was ice-cooled, and sodium sulfate decahydrate (3.0 g, 5.74 mmol) was added. The mixture was stirred at room temperature for 1 hr. The precipitated insoluble material was filtered off through celite, and the filtrate was concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:2-1:1), and the obtained crystals were recrystallized from ethyl acetate-hexane to give the title compound (1.7 g, yield 91%) as colorless needle crystals.

reactant | methyl 6-(benzyloxy)-4′-(2-ethoxyethoxy)biphenyl-3-carboxylate | 4.92 mmol, 40 mL, 2.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1C1=CC=C(C=C1)OCCOCC)C(=O)OC | C25H26O5
reactant | lithium aluminum hydride | 5.01 mmol, 0.19 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | 5.74 mmol, 3.0 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [6-(benzyloxy)-4′-(2-ethoxyethoxy)biphenyl-3-yl]methanol | 1.7 g, yield 91% | C(C1=CC=CC=C1)OC1=CC=C(C=C1C1=CC=C(C=C1)OCCOCC)CO | C24H26O4
